US06878713B2
1-Carbethoxy-4-dimethylamino-3-methylpiperidine (3.5 g, 16.3 mmol) was suspended in 5 M NaOH solution (20 ml), stirred at 110° C. for 48 hr, cooled, extracted with ethyl acetate, dried (Na2SO4) and concentrated to dryness to afford 4-dimethylamino-3-methylpiperidine. Yield 1.0 g (43%), C8H18N2, m/z 143 (M+1), PMR (CDCl3): 0.96 (dd, 3H), 1.3 (m, 1H), 1.5 (m, 1H), 1.74 (m, 1H), 2.08 (m, 1H), 2.24 (s, 6H), 2.38 (m, 1H), 2.61 (bs, 1H, D2O exchangeable), 2.86 (m, 1H), 3.16 (m, 1H), 3.68 (m, 1H).

reactant | 1-Carbethoxy-4-dimethylamino-3-methylpiperidine | 16.3 mmol, 3.5 g | C(=O)(OCC)N1CC(C(CC1)N(C)C)C | C11H22N2O2
solvent | NaOH | 5 M, 20 ml | [OH-].[Na+]
product | 4-dimethylamino-3-methylpiperidine | CN(C1C(CNCC1)C)C | C8H18N2
